US04771054
6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-7-[2[(methylamino)methyl]-4-thiazolyl]-4-oxo-3-quinolinecarboxylic acid, mp 214°-215° C. (35d);
7-[2-[(ethylamino)methyl]-4-thiazolyl]-6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, mp 197°-201° C. (35e), and 10-[2-(aminomethyl)-4-thiazolyl]-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid, mp 229°-231° C. (35f).

reactant | 7-[2-[(ethylamino)methyl]-4-thiazolyl]-6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | C(C)NCC=1SC=C(N1)C1=C(C=C2C(C(=CN(C2=C1F)CCF)C(=O)O)=O)F | C18H16F3N3O3S
reactant | 10-[2-(aminomethyl)-4-thiazolyl]-9-fluoro-2,3-dihydro-3-methyl-7-oxo-7H-pyrido[1,2,3-de]-1,4-benzoxazine-6-carboxylic acid | NCC=1SC=C(N1)C=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C17H14FN3O4S
product | 6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-7-[2[(methylamino)methyl]-4-thiazolyl]-4-oxo-3-quinolinecarboxylic acid | FC=1C=C2C(C(=CN(C2=C(C1C=1N=C(SC1)CNC)F)CCF)C(=O)O)=O | C17H14F3N3O3S
